* Schematics Netlist *



V_V2         $N_0001 0 12V
R_R19         $N_0002 0  2.2k  
Q_Q13         $N_0003 $N_0002 $N_0004 Q2N5089
D_D3         $N_0004 0 D1N4148 
Q_Q14         $N_0006 $N_0005 $N_0004 Q2N5089
R_R25         $N_0007 $N_0001  510  
X_R27         $N_0009 $N_0004 $N_0008 POT PARAMS: SET=0.5 VALUE=22k
R_R21         $N_0010 $N_0008  1k  
R_R20         $N_0011 $N_0009  1k  
Q_Q18         $N_0013 $N_0012 $N_0011 Q2SC1815
Q_Q17         $N_0014 $N_0012 $N_0010 Q2SC1815
C_C5         $N_0013 $N_0006  0.1u  
R_R18         $N_0006 $N_0002  4.3k  
C_C6         $N_0006 $N_0002  0.01u  
R_R28         $N_0006 0  620  
R_R23         $N_0003 $N_0005  4.3k  
R_R29         $N_0003 0  620  
C_C7         $N_0003 $N_0005  0.02u  
X_R26         0 $N_0012 $N_0007 POT PARAMS: SET=0.5 VALUE=6.8k
R_R22         $N_0005 0  2.3k  
C_C8         $N_0014 $N_0003  0.2u  
Q_Q23         $N_0003 $N_0013 $N_0001 Q2N3906
Q_Q24         $N_0006 $N_0014 $N_0001 Q2N3906
